US08445510B2
N-{trans-4-[4-(3-{(1S)-1-[2-Chloro-6-(difluoromethoxy)-3-fluorophenyl]ethyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)-5-methyl-1H-pyrazol-1-yl]cyclohexyl}-N-methylglycine
To a mixture of 4-[4-(3-{(1S)-1-[2-chloro-6-(difluoromethoxy)-3-fluorophenyl]ethyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)-5-methyl-1H-pyrazol-1-yl]cyclohexanone (15.0 mg, 0.0290 mmol), sarcosine methyl ester hydrochloride (20.25 mg, 0.1451 mmol), sodium triacetoxyborohydride (12.30 mg, 0.05803 mmol) and 1,2-dichloroethane (4 mL, 50 mmol) was added triethylamine (14.68 mg, 0.1451 mmol), and the reaction was heated to 50° C. overnight. The material was partitioned between DCM and water, and the organic layer was concentrated in vacuo. Lithium hydroxide monohydrate (6.088 mg, 0.1451 mmol) and MeOH (2 mL, 50 mmol) were added, and the mixture was heated to 50° C. for 3 h. The solution was concentrated in vacuo, and the crude product was redissolved in minimal DMF. The solution was purified via HPLC, and the fractions containing the separate cis and trans products were concentrated in vacuo to afford the title compound as white solid. 1H NMR (400 MHz, CD3OD): δ=1.75-1.89 (m, 5H), 2.01-2.14 (m, 4H), 2.18-2.23 (m, 2H), 2.23 (s, 3H), 2.90 (s, 3H), 3.40 (tdd, J=12.0, 12.0, 3.1, 2.8 Hz, 1H), 3.65 (br. s., 2H), 4.22-4.34 (m, 1H), 5.06-5.14 (m, 1H), 6.43 (br. s., 1H), 7.12 (dd, J=8.3, 4.3 Hz, 1H), 7.18 (t, J=8.6 Hz, 1H), 7.37 (d, J=1.8 Hz, 1H), 7.40 (d, J=1.3 Hz, 1H), 7.49 (s, 1H), 8.12 (d, J=2.0 Hz, 1H). MS (ES+): m/z=590.14/592.17 (100/50) [MH+]. HPLC: tR=1.01 min (polar—2 min, UPLC-ACQUITY).

reactant | 4-[4-(3-{(1S)-1-[2-chloro-6-(difluoromethoxy)-3-fluorophenyl]ethyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)-5-methyl-1H-pyrazol-1-yl]cyclohexanone | 0.0290 mmol, 15.0 mg | ClC1=C(C(=CC=C1F)OC(F)F)[C@@H](C)C1=CNC2=NC=C(C=C21)C=2C=NN(C2C)C2CCC(CC2)=O | C26H24ClF3N4O2
reactant | sarcosine methyl ester hydrochloride | 0.1451 mmol, 20.25 mg | Cl.COC(CNC)=O
reactant | sodium triacetoxyborohydride | 0.05803 mmol, 12.30 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1,2-dichloroethane | 50 mmol, 4 mL | ClCCCl | C2H4Cl2
reactant | triethylamine | 0.1451 mmol, 14.68 mg | C(C)N(CC)CC | C6H15N
reactant | Lithium hydroxide monohydrate | 0.1451 mmol, 6.088 mg | O.[OH-].[Li+]
reactant | MeOH | 50 mmol, 2 mL | CO | CH4O
product | N-{trans-4-[4-(3-{(1S)-1-[2-Chloro-6-(difluoromethoxy)-3-fluorophenyl]ethyl}-1H-pyrrolo[2,3-b]pyridin-5-yl)-5-methyl-1H-pyrazol-1-yl]cyclohexyl}-N-methylglycine | ClC1=C(C(=CC=C1F)OC(F)F)[C@@H](C)C1=CNC2=NC=C(C=C21)C=2C=NN(C2C)[C@@H]2CC[C@H](CC2)N(CC(=O)O)C | C29H31ClF3N5O3
